US04044141
Analogously to Example 1 heating a solution of 75 mmols of 3'-nitrobenzylideneacetoacetic acid isopropyl ester and 75 mmols of β-aminocrotonic acid 2-chlorobenzyl ester in 120 ml of ethanol gave 2,6-dimethyl-3-isopropoxycarbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 2-chlorobenzyl ester of melting point 103° C (from ethanol).

reactant | 2,6-dimethyl-3-isopropoxycarbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 2-chlorobenzyl ester | ClC1=C(COC(=O)C=2C(C(=C(NC2C)C)C(=O)OC(C)C)C2=CC(=CC=C2)[N+](=O)[O-])C=CC=C1 | C25H25ClN2O6
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | β-aminocrotonic acid 2-chlorobenzyl ester | 75 mmols, Yield: 73% | ClC1=C(COC(\C=C(\C)/N)=O)C=CC=C1 | C11H12ClNO2
